US09315467B2
Part A. A solution of 2,6-dibromopyridine (6.16 g, 26 mmol) and 3-carboethoxybenzeneboronic acid (0.5 g, 2.6 mmol) in acetonitrile (20 mL) is treated with a solution of sodium carbonate (0.88 g) in water (5 mL). The mixture is degassed twice, and a catalytic amount of tetrakis(triphenylphosphine)palladium is added. The reaction mixture is heated to 80° C. and stirred for 12 h., then cooled, filtered and evaporated. The residue is partitioned between water and ethyl acetate, and the organic phase is washed with satd. aq. brine, dried over sodium sulfate, filtered and evaporated. The residual material is separated by column chromatography to give ethyl 3-(6-bromo-pyridin-2-yl)-benzoate (154 mg, 20%).

reactant | 2,6-dibromopyridine | 26 mmol, 6.16 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 3-carboethoxybenzeneboronic acid | 2.6 mmol, 0.5 g | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | sodium carbonate | 0.88 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | ethyl 3-(6-bromo-pyridin-2-yl)-benzoate | 154 mg, 20% | BrC1=CC=CC(=N1)C=1C=C(C(=O)OCC)C=CC1 | C14H12BrNO2
